US08138181B2
To a solution of quinolin-8-ol (3.50 g, 24.1 mmol) in 60 mL DMF was added cesium carbonate (23.6 g, 72.3 mmol), followed by (cis)-tert-butyl 3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate (8.24 g, 27.7 mmol). The reaction mixture was heated in a 100° C. sand bath and stirred 20 hours. The reaction mixture was cooled to ambient temperature, filtered through GF/F paper topped with compressed Celite, rinsed with DMF, and concentrated. The crude was purified on silica gel (Biotage 40M, 9:1 DCM:EtOAc until the product eluted, then 2:1 DCM:EtOAc) to give (trans)-tert-butyl 3-fluoro-4-(quinolin-8-yloxy)piperidine-1-carboxylate (0.701 g, 2.02 mmol, 42% yield). LC/MS ESI (+) m/z 347 (M+1) detected.

reactant | quinolin-8-ol | 24.1 mmol, 3.50 g | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | cesium carbonate | 72.3 mmol, 23.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (cis)-tert-butyl 3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate | 27.7 mmol, 8.24 g | F[C@@H]1CN(CC[C@@H]1OS(=O)(=O)C)C(=O)OC(C)(C)C | C11H20FNO5S
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (trans)-tert-butyl 3-fluoro-4-(quinolin-8-yloxy)piperidine-1-carboxylate | 2.02 mmol, 0.701 g, 42% yield | F[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C=CC=NC12)C(=O)OC(C)(C)C | C19H23FN2O3
